US07763612B2
Freshly distilled sulfuryl chloride (0.050 mole) in dichloromethane (25 mL) is added to O-(5-(aminosulfonyl)-4-chloro-2-[(2-furanylmethyl)amino]benzoyloxymethyl) S-ethyl carbonothioate (1005) (0.050 mole) in dichloromethane (25 mL) at 0-5° C. with stirring during 15 minutes followed by stirring at ambient temperature for 45 minutes. The volatiles are removed by evaporation at ambient temperature and then at 20 millibar for 16 hours. The crude product is dissolved in ethyl acetate and applied to a column of silica gel. The column may be eluted with hexanes/ethyl acetate, and the fractions that contain pure product may be combined and spin evaporated in vacuo to give 5-(aminosulfonyl)-4-chloro-2-[(2-furanylmethyl)amino]benzoyloxymethyl carbonochloridate (1010). See eg., Folkmann, et al., Synthesis, 1159 (1990), Method G.

reactant | sulfuryl chloride | 0.050 mole | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | O-(5-(aminosulfonyl)-4-chloro-2-[(2-furanylmethyl)amino]benzoyloxymethyl) S-ethyl carbonothioate | 0.050 mole | C(OCOC(C1=C(C=C(C(=C1)S(=O)(=O)N)Cl)NCC=1OC=CC1)=O)(SCC)=O | C16H17ClN2O7S2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-(aminosulfonyl)-4-chloro-2-[(2-furanylmethyl)amino]benzoyloxymethyl carbonochloridate | C(OCOC(C1=C(C=C(C(=C1)S(=O)(=O)N)Cl)NCC=1OC=CC1)=O)(=O)Cl | C14H12Cl2N2O7S
